2147-06-01 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - transferred to MICU
   - gave 2 pRBC units
   - pt declined NGT
   Allergies:
   Cetacaine (Topical) (Tetracaine/Benzocaine/Butamben)
   Anaphylaxis;
   Tetracycline
   Unknown;
   Ativan (Oral) (Lorazepam)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-5-31**] 08:30 PM
   Metronidazole - [**2147-6-1**] 12:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-6-1**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 87 (80 - 127) bpm
   BP: 114/56(71) {96/44(57) - 122/62(75)} mmHg
   RR: 23 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
           Total In:
                                                                    733 mL
                                                                    440 mL
   PO:
           TF:
   IVF:
                                                                    733 mL
                                                                    162 mL
   Blood products:
   278 mL
   Total out:
                                                                    275 mL
                                                                    260 mL
   Urine:
                                                                    275 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    458 mL
                                                                    180 mL
   Respiratory support
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   GEN: pleasant, elderly male in NAD, comfortable with NC on
   HEENT: anicteric, MM dry, no cervical LAD
   CHEST: decreased BS at LLL, crackles at LLL and RLL
   CV: irreg irreg, no m/r/g
   ABD: distended, high pitched BS, tymphanic
   EXT: no c/c/e
   NEURO: A&O x 3
   DERM: L flank with 8 x 10 cm hematoma, NT to palpation
   Labs / Radiology
   223 K/uL
   9.6 g/dL
   94 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   12 mg/dL
   95 mEq/L
   127 mEq/L
   27.2 %
   27.6 K/uL
        [image002.jpg]
                             [**2147-5-31**]  08:11 PM
                             [**2147-6-1**]  01:18 AM
   WBC
   27.6
   Hct
   23.7
   27.2
   Plt
   223
   Cr
   0.7
   0.6
   Glucose
   113
   94
   Other labs: PT / PTT / INR:27.8/37.7/2.8, Ca++:7.6 mg/dL, Mg++:2.1
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   77 year old female with a history of MVR (St. [**Male First Name (un) 4029**]), TAA, atrial
   fibrillation and COPD on 2L home oxygen who was initially admitted to
   cardiac surgery on [**2147-5-25**] for concern about TAA dissection, transferred
   to Medicine surgery for multifocal pneumonia and ARF (resolved), now
   transferred to MICU for closer hemodynamic monitoring given spontaneous
   abdominal wall hematoma.
   .
   # Abdominal Wall Hematoma: CT today revealed L abdominal wall
   intramuscular hematoma with 2 small foci of active extravasation. Hct
   had been stable at 26, but prior to transfer 24.  HR now 110-130s with
   stable BPs.
   - active T&S
   - q6 hour Hcts
   - 2 pRBC unit transfusion overnight
   - 2 large bore IVs
   - IVF bolus to resuscitate
   - monitor abdominal exam
   - f/u final CT read
   - appreciate vascular surgery input: monitor Hcts
   - appreciate IR input: monitor Hcts, vitals, pressure dressing,
   consider reversing INR
   .
   # Abdominal distension: Per patient, distension better and she is
   passing gas; however, CT shows distended large bowel loops but no
   obstruction.
   - appreciate gen [**Doctor First Name **] involvement
   - will place NG tube for decompression
   - continue bowel regimen
   - monitor abdominal exam
   - IV antiemetics prn
   - NPO for now
   .
   # Multifocal Pneumonia: Seen on CXR on [**2147-5-26**], likely related to
   aspiration versus hospital acquired pneumonia. Patient has very poor
   pulmonary reserve from her COPD.
   - titrate oxygen for target saturations 88-92% given COPD history
   - vancomycin, levofloxacin and flagyl for 14 day course for HAP
   - continue advair, holding spiriva
   - albuterol and ipratropium nebulizers standing and albuterol PRN
   - f/u sputum culture
   .
   # Atrial Fibrillation: dig level 0.8 on [**5-25**]
   - EKG now
   - continue diltiazem with strict holding parameters, titrate as needed
   as currently HD stable
   - continue digoxin
   - check dig level in AM
   .
   # Hyponatremia: Appears dry on exam
   - gentle IVFs overnight
   - trend Na
   .
   # s/p MVR: INR 2.5 today
   - hold coumadin in setting of abdomianl wall hematoma
   - will need to discuss her anticoagulation in AM, but likely hold until
   hematoma resolves
   .
   # Hypothyroidism: continue Synthroid
   .
   # GERD: continue pantoprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2147-5-31**] 09:41 PM
   20 Gauge - [**2147-5-31**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-06-01 07:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Transfused 2U PRBC
   > continued constipation
   Allergies:
   Cetacaine (Topical) (Tetracaine/Benzocaine/Butamben)
   Anaphylaxis;
   Tetracycline
   Unknown;
   Ativan (Oral) (Lorazepam)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-5-31**] 08:30 PM
   Metronidazole - [**2147-6-1**] 12:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-6-1**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 87 (80 - 127) bpm
   BP: 114/56(71) {96/44(57) - 122/62(75)} mmHg
   RR: 23 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
           Total In:
                                                                  1,011 mL
                                                                    455 mL
   PO:
           TF:
   IVF:
                                                                    733 mL
                                                                    177 mL
   Blood products:
                                                                    278 mL
                                                                    278 mL
   Total out:
                                                                    275 mL
                                                                    260 mL
   Urine:
                                                                    275 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    736 mL
                                                                    195 mL
   Respiratory support
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, left
   flank hematoma
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   223 K/uL
   94 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   12 mg/dL
   95 mEq/L
   127 mEq/L
   27.2 %
   27.6 K/uL
        [image002.jpg]
                             [**2147-5-31**]  08:11 PM
                             [**2147-6-1**]  01:18 AM
   WBC
   27.6
   Hct
   23.7
   27.2
   Plt
   223
   Cr
   0.7
   0.6
   Glucose
   113
   94
   Other labs: PT / PTT / INR:27.8/37.7/2.8, Ca++:7.6 mg/dL, Mg++:2.1
   mg/dL, PO4:2.3 mg/dL
   TTE [**5-/2147**]
   atrium is dilated. Left ventricular wall thickness, cavity size and
   regional/global systolic function are normal (LVEF >55%). Diastolic
   function could not be assessed. The right ventricular cavity is mildly
   dilated with mild global free wall hypokinesis. The diameters of aorta
   at the sinus, ascending and arch levels are normal. The aortic valve
   leaflets (3) are mildly thickened. There is mild aortic valve stenosis
   (valve area 1.2-1.9cm2). No aortic regurgitation is seen. A
   bioprosthetic mitral valve prosthesis is present. The prosthetic mitral
   valve leaflets are thickened. The transmitral gradient is normal for
   this prosthesis. Trivial mitral regurgitation is seen. [Due to acoustic
   shadowing, the severity of mitral regurgitation may be significantly
   UNDERestimated.] The tricuspid valve leaflets are mildly thickened.
   There is moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   IMPRESSION: Mitral prosthesis with high-normal gradients and trivial
   mitral regurgitation. Mildly dilated and hypokinetic right ventricle.
   Mild calficic aortic stenosis.
   Assessment and Plan
   77 year old female with a history of MVR (St. [**Male First Name (un) 4029**]), hx of TAA,
   atrial fibrillation and COPD on 2L home oxygen, transferred to Medicine
   surgery for multifocal pneumonia and ARF (resolved), now transferred to
   MICU for closer hemodynamic monitoring given spontaneous abdominal wall
   hematoma.
   > Abdominal Wall Hematoma: spontaneous in nature, on coumadin for
   valve. CT today revealed L abdominal wall intramuscular hematoma with 2
   small foci of active extravasation. Hct had been stable at 26, but
   prior to transfer 24.
   - active T&S
   - q6 hour Hcts
   - 2 large bore IVs
   - monitor abdominal exam
   - appreciate vascular surgery input: monitor Hcts
   - appreciate IR input: monitor Hcts, vitals, pressure dressing, hold on
   reversing INR given MV and hemodynamically stable.
   > Abdominal distension: Per patient, distension better and she is
   passing gas; however, CT shows distended large bowel loops but no
   obstruction. Would favor manual disimpaction and trial of enemas (she
   says she has only received
   - appreciate gen [**Doctor First Name **] involvement
   - will place NG tube for decompression
   - continue bowel regimen
   - monitor abdominal exam
   - IV antiemetics prn
   - Trial enema: fleets then lactulose if not effective., consider manual
   disimpaction
   - NPO for now
   > Multifocal Pneumonia: Seen on CXR on [**2147-5-26**], aspiration [**Hospital **] hospital
   acquired pneumonia. Patient has very poor pulmonary reserve from her
   COPD.
   - titrate oxygen for target saturations 88-92% given COPD history
   - vancomycin, levofloxacin and flagyl for 14 day course for HAP  (D1=
   [**5-27**] )
   - continue advair, holding spiriva
   - albuterol and ipratropium nebulizers standing and albuterol PRN
   - f/u sputum culture
   > Atrial Fibrillation: dig level 0.8 on [**5-25**]
   - EKG now
   - stop diltiazem for now
   - continue digoxin
   - check dig level in AM
   > Hyponatremia: Appears dry on exam, has been hyponatremic for several
   days. Will check urine lytes today
   - gentle IVFs overnight
   - trend Na
   > Mechanical Mitral valve:  continue anti-coagulation for now.,  target
   INR 2.5, will d/w cardiology whether we can stop temporarily
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2147-5-31**] 09:41 PM
   20 Gauge - [**2147-5-31**] 09:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2147-06-02 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -hct stable
   -levothyroxine increased
   -NGT placed to low intermittent suction
   -HR okay off of dilt
   -7 p.m. vanc level okay
   -patient definitely has st. [**Male First Name (un) **] mechanical mitral valve
   -mag citrate and lactulose
   Allergies:
   Cetacaine (Topical) (Tetracaine/Benzocaine/Butamben)
   Anaphylaxis;
   Tetracycline
   Unknown;
   Ativan (Oral) (Lorazepam)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-6-1**] 08:09 PM
   Metronidazole - [**2147-6-1**] 11:20 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-6-1**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-6-2**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 88 (83 - 118) bpm
   BP: 118/52(68) {73/43(31) - 120/108(111)} mmHg
   RR: 21 (19 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,168 mL
                                                                     60 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                  1,540 mL
                                                                     60 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                    875 mL
                                                                    220 mL
   Urine:
                                                                    875 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,293 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   GEN: pleasant, elderly female in NAD, comfortable with NC on
   HEENT: anicteric, MM dry, no cervical LAD, NGT in place
   CHEST: decreased BS at LLL, crackles at LLL and RLL
   CV: irreg irreg, no m/r/g
   ABD: distended,  few bowel sounds, low pitched tymphanic
   EXT: no c/c/e
   NEURO: A&O x 3
   DERM: L flank with 8 x 10 cm hematoma, NT to palpation
   Labs / Radiology
   256 K/uL
   9.1 g/dL
   85 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   7 mg/dL
   96 mEq/L
   129 mEq/L
   26.9 %
   23.7 K/uL
        [image002.jpg]
                             [**2147-5-31**]  08:11 PM
                             [**2147-6-1**]  01:18 AM
                             [**2147-6-1**]  09:21 AM
                             [**2147-6-1**]  03:07 PM
                             [**2147-6-1**]  08:56 PM
                             [**2147-6-2**]  04:42 AM
   WBC
   27.6
   23.7
   Hct
   23.7
   27.2
   26.9
   28.5
   27.5
   26.9
   Plt
   223
   256
   Cr
   0.7
   0.6
   0.5
   Glucose
   113
   94
   85
   Other labs: PT / PTT / INR:28.9/37.7/2.9, Ca++:7.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   77 year old female with a history of MVR (St. [**Male First Name (un) 4029**]), TAA, atrial
   fibrillation and COPD on 2L home oxygen who was initially admitted to
   cardiac surgery on [**2147-5-25**] for concern about TAA dissection, transferred
   to Medicine surgery for multifocal pneumonia and ARF (resolved), now
   transferred to MICU for closer hemodynamic monitoring given spontaneous
   abdominal wall hematoma.
   # Abdominal Wall Hematoma: CT today revealed L abdominal wall
   intramuscular hematoma with 2 small foci of active extravasation.
   -trend hct q12hrs
has been stable
   -2 large bore IVs, active Type and screen, s/p 2 uPRBC on [**5-31**]
   -monitor L flank
evolving ecchymosis at this time
   # Abdominal distension/Constipation/Ileus:  tried more aggressive bowel
   regimen and attempted manual disimpaction without stool production.
   Had gas last night, none this am.
   -begin enemas
   -aggressive bowel regimen
   -f/u surgery recs and consult GI
   -NPO for now, hydration
   -replete lytes as needed
   -OOB and walking, hydrate
   -check lactate, check C.diff if has stool
   -KUB in am
   # Multifocal Pneumonia:
   - continue abx and follow clinically, continues to be stable on 2L
   NC
will pull off 1 antibiotic daily.  D/C vancomycin today.
   - continue advair, holding spiriva
   - prn nebs, stop standing
   --Sputum cx X 2 with OP flora
   # Atrial Fibrillation:
   -continues on digoxin at increased dose of 0.25 mg
   -Off diltiazem. HR has remained stable.
   # Hyponatremia: hypovolemic, improved with IVF yesterday. Give 1 L LR
   today
   # s/p MVR: INR 2.9 today
   - hold coumadin in setting of abdominal wall hematoma
   - follow INR goal 2.5-3.5. Need to keep INR close to goal as
   possible
balance with hematocrit
   # Hypothyroidism:  now on increased dose of synthroid
   -increase synthroid
   # GERD: continue pantoprazole
   ICU Care
   Nutrition: NPO, 1L LR today
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-5-31**] 09:41 PM
   18 Gauge - [**2147-6-1**] 06:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2147-06-02 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > NG tube placed
   > manual disimpaction
   Allergies:
   Cetacaine (Topical) (Tetracaine/Benzocaine/Butamben)
   Anaphylaxis;
   Tetracycline
   Unknown;
   Ativan (Oral) (Lorazepam)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-6-1**] 08:09 PM
   Metronidazole - [**2147-6-1**] 11:20 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-6-1**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-6-2**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 97 (83 - 118) bpm
   BP: 109/47(62) {73/43(31) - 120/108(111)} mmHg
   RR: 20 (19 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,168 mL
                                                                    179 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                  1,540 mL
                                                                    179 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                    875 mL
                                                                    260 mL
   Urine:
                                                                    875 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,293 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   256 K/uL
   85 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   7 mg/dL
   96 mEq/L
   129 mEq/L
   26.9 %
   23.7 K/uL
        [image002.jpg]
                             [**2147-5-31**]  08:11 PM
                             [**2147-6-1**]  01:18 AM
                             [**2147-6-1**]  09:21 AM
                             [**2147-6-1**]  03:07 PM
                             [**2147-6-1**]  08:56 PM
                             [**2147-6-2**]  04:42 AM
   WBC
   27.6
   23.7
   Hct
   23.7
   27.2
   26.9
   28.5
   27.5
   26.9
   Plt
   223
   256
   Cr
   0.7
   0.6
   0.5
   Glucose
   113
   94
   85
   Other labs: PT / PTT / INR:28.9/37.7/2.9, Ca++:7.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   77 year old female with a history of MVR (St. [**Male First Name (un) 4029**]), hx of TAA,
   atrial fibrillation and COPD on 2L home oxygen, transferred to Medicine
   surgery for multifocal pneumonia and ARF (resolved), now transferred to
   MICU for closer hemodynamic monitoring given spontaneous abdominal wall
   hematoma.
   > Abdominal Wall Hematoma/anemia: spontaneous in nature, on coumadin
   for valve. CT today revealed L abdominal wall intramuscular hematoma
   with 2 small foci of active extravasation. Hct had been stable at 26,
   but prior to transfer 24.
   - active T&S
   - q6 hour Hcts
   - 2 large bore IVs
   - monitor abdominal exam
   - appreciate vascular surgery input: monitor Hcts
   - appreciate IR input: monitor Hcts, vitals, pressure dressing, hold on
   reversing INR given MV and hemodynamically stable.
   > Abdominal distension: Per patient, distension better and she is
   passing gas; however, CT shows distended large bowel loops but no
   obstruction. Would favor manual disimpaction and trial of enemas (she
   says she has only received
   - appreciate gen [**Doctor First Name **] involvement
   - will place NG tube for decompression
   - continue bowel regimen
   - monitor abdominal exam
   - IV antiemetics prn
   - Trial enema: fleets then lactulose if not effective., consider manual
   disimpaction
   - NPO for now
   > Multifocal Pneumonia: Seen on CXR on [**2147-5-26**], aspiration [**Hospital **] hospital
   acquired pneumonia. Patient has very poor pulmonary reserve from her
   COPD.
   - titrate oxygen for target saturations 88-92% given COPD history
   - vancomycin, levofloxacin and flagyl for 14 day course for HAP  (D1=
   [**5-27**] )
   - continue advair, holding spiriva
   - albuterol and ipratropium nebulizers standing and albuterol PRN
   - f/u sputum culture
   > Atrial Fibrillation: dig level 0.8 on [**5-25**]
   - EKG now
   - stop diltiazem for now
   - continue digoxin
   - check dig level in AM
   > Hyponatremia: Appears dry on exam, has been hyponatremic for several
   days. Will check urine lytes today
   - gentle IVFs overnight
   - trend Na
   > Mechanical Mitral valve:  continue anti-coagulation for now.,  target
   INR 2.5, will d/w cardiology whether we can stop temporarily
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-5-31**] 09:41 PM
   18 Gauge - [**2147-6-1**] 06:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes